US04835175
500 mg of 7-benzyloxy-4-formylindole is combined with 50 mg of 4-dimethylaminopyridine, 0.7 ml of triethylamine, 0.5 ml of acetic anhydride, and 10 ml of dichloromethane and agitated for 24 hours at room temperature. The reaction mixture is then diluted with 50 ml of dichloromethane, washed with concentrated sodium bicarbonate solution; the organic phase is dried and concentrated. The residue is recrystallized from isopropanol, thus obtaining 400 mg of 1-acetyl-7-benzyloxy-4-formylindole, mp 77°-78° C.

reactant | 7-benzyloxy-4-formylindole | 500 mg | C(C1=CC=CC=C1)OC=1C=CC(=C2C=CNC12)C=O | C16H13NO2
reactant | triethylamine | 0.7 ml | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 0.5 ml | C(C)(=O)OC(C)=O | C4H6O3
catalyst | 4-dimethylaminopyridine | 50 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 1-acetyl-7-benzyloxy-4-formylindole | 400 mg | C(C)(=O)N1C=CC2=C(C=CC(=C12)OCC1=CC=CC=C1)C=O | C18H15NO3
